resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.017283
R2 0 n2 0.998386
R3 0 n4 0.993733
R4 n1 n3 0.992741
R5 n1 n5 0.999049
R6 n2 n3 0.981052
R7 n2 n6 0.992938
R8 n3 n7 0.997063
R9 n4 n5 1.009358
R10 n4 n6 0.981822
C11 n5 n7 5.82e-06
R12 n6 n7 1.01201
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r12[i]
.endc
.end
